US07632829B2
3-Hydroxy-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
Hydroxy-4-methylpyridine (0.98 g, 9 mmol) was dissolved in a AcOH (50 ml) and Pt2O (0.10 g) added. The mixture was heated to 100° C. under 100 bar of hydrogen pressure for 20 h. The reaction was then filtered through Hyflo and concentrated. The residue was dissolved in CH2Cl2 (30 ml) and Et3N (2.75 ml, 20 mmol) and Boc2O (2.2 g, 10 mmol) added and the mixture stirred for 1 h. The reaction was then washed with 10% citric acid solution, dried (Na2SO4) and concentrated. Purification by flash column chromatography (EtOAc:n-heptane 3:7) afforded the title product (0.63 g, 33%), a 3:1 mixture of diasteriomers (cis:trans) as a colourless oil. MS: 216.1 (MH+).

reactant | Hydroxy-4-methylpyridine | 9 mmol, 0.98 g | OC1=NC=CC(=C1)C | C6H7NO
reactant | hydrogen | [H][H] | H2
reactant | Et3N | 20 mmol, 2.75 ml | CCN(CC)CC | C6H15N
reactant | Boc2O | 10 mmol, 2.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 3-Hydroxy-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.63 g, 33% | C(C)(C)(C)OC(=O)N1CC(C(CC1)C)O | C11H21NO3
